US07709645B2
To a solution of 999 mg (6.44 mmol) of 2-amino-3-fluorobenzoic acid in 35 mL of water was added 500 mg (5.95 mmol) of sodium bicarbonate. The reaction was stirred and 1.77 g (6.99 mmol) of iodine was slowly added. The reaction was stirred at room temperature for 48 hours. To the solution was added an aqueous solution of sodium bisulfite and the solution was stirred vigorously for 30 minutes. The precipitate was collected by vacuum filtration and washed with water. The brown solid was dried overnight to afford 1.14 g (4.06 mmol, 63% yield) of 2-amino-3-fluoro-5-iodo-benzoic acid. 1H NMR (500 MHz, DMSO-d6) δ 7.79 (t, 1H), 7.58 (dd, 1H).

reactant | 2-amino-3-fluorobenzoic acid | 6.44 mmol, 999 mg | NC1=C(C(=O)O)C=CC=C1F | C7H6FNO2
reactant | sodium bicarbonate | 5.95 mmol, 500 mg | C([O-])(O)=O.[Na+]
reactant | iodine | 6.99 mmol, 1.77 g | II | I2
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | water | 35 mL | O | H2O
product | 2-amino-3-fluoro-5-iodo-benzoic acid | 4.06 mmol, 1.14 g, 63% yield | NC1=C(C(=O)O)C=C(C=C1F)I | C7H5FINO2
